US05501821
First, dimethyl (4-methylthiobenzyl)phosphonate was synthesized, as follows: Trimethylphosphite (206 g, 1.66 mol) was stirred at reflux, and 245 g (1.42 mol) of 4-methylmercaptobenzyl chloride (prepared as described in Ulman, et al. U.S. Pat. No. 4,792,208, Example 1) was added dropwise over 30 min. The mixture was kept at reflux for 4 hours, and then cooled to room temperature. Dimethyl (4-methylthiobenzyl)phosphonate was obtained by fractional distillation at reduced pressure. The yield was 263 grams, which is 75% of theoretical.

reactant | Trimethylphosphite | 1.66 mol, 206 g | COP(OC)OC | C3H9O3P
reactant | 4-methylmercaptobenzyl chloride | 1.42 mol, 245 g | CSC1=CC=C(CCl)C=C1 | C8H9ClS
product | Dimethyl (4-methylthiobenzyl)phosphonate | CSC1=CC=C(CP(OC)(OC)=O)C=C1 | C10H15O3PS
